US09107415B2
To a suspension of 4-(4-Bromo-2,6-dimethylphenyl)-10-oxatricyclo[5.2.1.0*2,6*]decane-3,5-dione (1.0 g, 2.86 mmol) (reported in WO 2009019005) in acetone (50 ml) is added potassium carbonate (0.59 g, 4.3 mmol) followed by iodomethane (2.0 g, 0.89 ml, 14 mmol). The mixture is stirred at room temperature for 18 hours then acetone is removed in vacuo and the residue is partitioned between water and ethyl acetate. The crude product is extracted with ethyl acetate and the combined organic fractions are washed with distilled water then brine, dried over magnesium sulfate, filtered and concentrated in vacuo to afford (1RS,2SR,6RS,7SR)-4-(4-bromo-2,6-dimethylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]dec-4-en-3-one.

reactant | 4-(4-Bromo-2,6-dimethylphenyl)-10-oxatricyclo[5.2.1.0*2,6*]decane-3,5-dione | 2.86 mmol, 1.0 g | BrC1=CC(=C(C(=C1)C)C1C(C2C3CCC(C2C1=O)O3)=O)C | C17H17BrO3
reactant | potassium carbonate | 4.3 mmol, 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 14 mmol, 0.89 ml, 2.0 g | IC | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (1RS,2SR,6RS,7SR)-4-(4-bromo-2,6-dimethylphenyl)-5-methoxy-10-oxa-tricyclo[5.2.1.02,6]dec-4-en-3-one | BrC1=CC(=C(C(=C1)C)C=1C(C2C3CCC(C2C1OC)O3)=O)C | C18H19BrO3
